US04282230
2-[[1-(2,4-Dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]quinoline, hydrochloride (1:2)
3.2 g of 2-Chloromethylquinoline hydrochloride (0.015 mol) (commercially available), 3.85 g of 1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethanol (0.015 mol), 14.8 g sodium hydroxide (0.37 mol) in 25 ml of water, 0.25 g of benzyltrimethylammonium chloride and 40 ml of tetrahydrofuran are reacted in a manner as described in Example 1. After work up, the oily product (6.4 g) is dissolved in 150 ml of ether, charcoaled and then etheral hydrochloric acid is added to the clear solution while stirring. The precipitated hydrochloride (5.8 g) is filtered off, washed with ether and hexane and recrystallized from acetonitrile; m.p. 148°-149° C.

reactant | 2-Chloromethylquinoline hydrochloride | 0.015 mol, 3.2 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | 1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethanol | 0.015 mol, 3.85 g | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)O | C11H10Cl2N2O
reactant | sodium hydroxide | 0.37 mol, 14.8 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 25 ml | O | H2O
catalyst | benzyltrimethylammonium chloride | 0.25 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-[[1-(2,4-Dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]quinoline, hydrochloride | Cl.ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)OCC1=NC2=CC=CC=C2C=C1 | InChI=1S/C21H17Cl2N3O.ClH/c22-16-6-8-18(19(23)11-16)21(12-26-10-9-24-14-26)27-13-17-7-5-15-3-1-2-4-20(15)25-17;/h1-11,14,21H,12-13H2;1H
